US04198422
2-Amino-7-isobutylthio-3-nitronaphthalene
To 1 mole of isobutylmercaptan in 500 ml of methanol stirring at room temperature is added 1.1 mol of sodium methoxide. The mixture is stirred for 10 minutes and the solvent is evaporated under vacuum. The residue is taken up in 500 ml of dimethylformamide. To this mixture, stirring at room temperature, is added 1 mole of 2-amino-7-chloro-3-nitronaphthalene. The mixture is refluxed for 2 hours, then cooled and poured into 2 liters of water. After stirring for 30 minutes the resulting precipitate is filtered off and recrystallized from methanol or ethanol to yield the title compound.

reactant | isobutylmercaptan | 1 mole | C(C(C)C)S | C4H10S
reactant | sodium methoxide | 1.1 mol | C[O-].[Na+]
reactant | 2-amino-7-chloro-3-nitronaphthalene | 1 mole | NC1=CC2=CC(=CC=C2C=C1[N+](=O)[O-])Cl | C10H7ClN2O2
reactant | water | 2 liters | O | H2O
solvent | methanol | 500 ml | CO | CH4O
product | 2-Amino-7-isobutylthio-3-nitronaphthalene | NC1=CC2=CC(=CC=C2C=C1[N+](=O)[O-])SCC(C)C | C14H16N2O2S
